US07799798B2
A. Synthesis of 1-pentyl-1H-pyrrolo[3,2-b]pyridine
Following the procedure as described in PREPARATION 1A, and making non-critical variations using 1H-pyrrolo[3,2-b]pyridine to replace 1H-pyrrolo[2,3-b]pyridine, the title compound was obtained (75%) as a yellow oil: 1H NMR (300 MHz, CDCl3) δ 8.39 (d, 1H), 7.56 (d, 1H), 7.25 (d, 1H), 7.05-7.01 (m, 1H), 6.63 (d, 1H), 4.05-3.99 (m, 2H), 1.79-1.72 (m, 2H), 1.31-1.45 (m, 4H), 0.81 (t, 3H); 13C NMR (75 MHz, CDCl3) δ 146.8, 142.9, 131.0, 128.9, 116.5, 116.1, 102.0, 46.6, 30.0, 29.0, 22.2, 14.0; MS (ES+) m/z 189.3 (M+1).

reactant | 1H-pyrrolo[3,2-b]pyridine | N1C=CC2=NC=CC=C21 | C7H6N2
reactant | 1H-pyrrolo[2,3-b]pyridine | N1C=CC=2C1=NC=CC2 | C7H6N2
product | 1-pentyl-1H-pyrrolo[3,2-b]pyridine | C(CCCC)N1C=CC2=NC=CC=C21 | C12H16N2
